US07700595B2
[3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl](2-naphthylmethyl)amine
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and naphthalene-2-carbaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 471.9.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | naphthalene-2-carbaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | [3-(8-Chloro-3-phenylcinnolin-4-yl)phenyl](2-naphthylmethyl)amine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)NCC1=CC2=CC=CC=C2C=C1 | C31H22ClN3
